US04873244
3-Formylaminomethyl-5-methoxymethyl-1,2,4-oxadiazole H-NMR (60 MHz, CDCl3) (ppm): 3.5 (3H, s), 4.7 (4H, s+d, J=6 Hz), 7.8 (1H, broad-NH), 8.25 (H, s).
5-Cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole A stirred solution of 5-cyclopropyl-3-formylamino-methyl-1,2,4-oxadiazole (60 mmol) and triethylamine (176 mmol) in CH2Cl2 (100 ml) was charged dropwise with POCl3 (60 mmol) at 0° C. The mixture was then left for 30 minutes with stirring at 0° C., whereafter a solution of Na (60 mmol) in H2O (50 ml) was added. The mixture was heated to room temperature, evaporated in vacuo. The residue was treated with ether, decanted and the solution was evaporated to give the title compound as an oil. The oil was processed without any further purification. The compound was characterized by its IR absorbtion band at 2160 cm-1.

reactant | 5-Cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole | C1(CC1)C1=NC(=NO1)C[N+]#[C-] | C7H7N3O
reactant | 5-cyclopropyl-3-formylamino-methyl-1,2,4-oxadiazole | 60 mmol | C1(CC1)C1=NC(N(O1)C)NC=O | C7H11N3O2
reactant | triethylamine | 176 mmol | C(C)N(CC)CC | C6H15N
reactant | POCl3 | 60 mmol | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 ml | O | H2O
product | 3-Formylaminomethyl-5-methoxymethyl-1,2,4-oxadiazole | C(=O)NCC1=NOC(=N1)COC | C6H9N3O3
